2194-04-03 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-2**]
   - Held coumadin as INR 3.9
   - Condom cath fell off, difficult to assertain amount of UOP.
   Definitely -500cc overnight at least.  Increased lasix drip to 10mg/hr
   as pressure can tolerate with dopamine
   Allergies:
   Penicillins
   Unknown;
   Quinidine
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-4-3**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 77 (75 - 84) bpm
   BP: 105/62(71) {94/54(65) - 127/75(85)} mmHg
   RR: 16 (15 - 20) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
             Total In:
                                                                    255 mL
                                                                    106 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                     75 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    105 mL
   Urine:
                                                                    400 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -145 mL
                                                                      1 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GENERAL: elderly man in NAD
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   Hematoma on left anterior forehead with surrounding ecchymoses.
   NECK: Supple with JVP of anterior ear
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. [**3-7**] early to mid systolic murmur at LLSB. With RV heave
   and thrill over LLSB. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, ascites present, NTND. No HSM or tenderness. Abd aorta
   not enlarged by palpation. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   153 K/uL
   10.0 g/dL
   113 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   63 mg/dL
   99 mEq/L
   137 mEq/L
   29.4 %
   4.5 K/uL
        [image002.jpg]
                             [**2194-4-2**]  07:52 PM
   WBC
   4.5
   Hct
   29.4
   Plt
   153
   Cr
   2.0
   Glucose
   113
   Other labs: PT / PTT / INR:36.6/38.9/3.9, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   81 yo man with history of biventricular failure, CAD, CABG in [**2165**],
   admitted for evalution of likely CHF exacerbation.
   .
   1.  CHF exacerbation:  Biventricular failure secondary to ischemic
   cardiomyopathy. Mainly right sided symptomatology. It seems that he has
   progressed over the past few months from Stage 3 NYHA classification to
   Stage 4, with symptoms with minimal exertion/rest.
   - Continue diuresing (condom cath per wife
s request, inaccurate
   recording of I/O [**2-3**] loss of cath overnight). Diuresis with lasix drip,
   goal 100cc/hr of UOP, in exchange for torsemide and metolazone
   - Pressures have been on the low side. Change dopamine to milrinone.
   Continue close monitor
   - Continue digoxin (lever 0.4)
   - Consuider low dose carvedilol and nitro if pressure tolerates
   - Hold midodrine and aminophylline given dopamine treatment and risk of
   tachyarrhytmias.
   - Unclear if the patient has been taking losartan at home, however will
   not start [**Last Name (un) 284**] in the setting of hypotension.
   .
   2. Atrial Flutter:  The patient has been in atrial fibrillation
   regardless of attempts at chemical cardioversion with amiodarone in the
   past.  It appears on 12 lead from admission that the patient is in
   atrial flutter at a rate of 150bpm.  If the patient remains stable and
   improves clinically, may consider cardioversion at the end of this week
   or begining of next.
   - Continue amiodarone
   - coumadin held for suprathrapeutic INR
   - Hold carvedilol as above
   .
   3. CAD s/p CABG:
   - Continue simvastatin, aggrenox
   - carvedilol as above
   .
   4. History of TIAs:
   - Continue aggrenox
   .
   5. BPH:
   - Continue flomax, with holding parameters
   - condom cath
   .
   6. Cataracts:
   - Continue opthalmic treatments including predfort, acular, zymar, and
   cosopt.
   .
   7. Gout:
   - Continue colchicine
   .
   8. Hypothyroidism:  The patient's daughter reports that they did not
   initiate levothyroxine therapy given unclear [**Name2 (NI) **] results.
   - Check TSH
   .
   # FEN: 2gm NA diet, will monitor electrolytes [**Hospital1 **] given aggressive
   diuresis, fluid restriction of 1L
   .
   # ACCESS: PIVs, family would like refrain from central lines
   .
   # PROPHYLAXIS: therapeutic on coumadin
   .
   # CODE: Full Code
   .
   # DISPO: pending above
   .
   # Contact:  [**Name (NI) **],[**First Name3 (LF) **] [**Telephone/Fax (1) 5154**], [**Telephone/Fax (1) 5155**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2194-4-2**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **] and [**Doctor Last Name **].
   I would add the following remarks:
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). CCU team.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Impression:
   # class IV heart failure
   # severe pulmonary hypertension
   # severe TR
   # chronic renal failure
   # cardiac cachexia
   Plan:
   1. IV milrinone
   2. Start low-dose [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 5163**] for pulmonary vasodilation
   3. Lasix gtt, attempt spironolactone if BP tolerates
   4. Palliative care consult
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3671**], MD
   on:[**2194-4-3**] 10:56 ------

2194-04-04 04:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient confirmed he wants to be DNI. Palliative care consulted but
   were really busy and will try to see him tomorrow.
   - Tried milrinone. Dropped pressures to high 60s. Stopped milrinone.
   Restarted dopa.
   - Lasix gtt continued at 10/hr with good UOP (>100mL/hr)
   Allergies:
   Penicillins
   Unknown;
   Quinidine
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-4-4**] 04:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 82 (75 - 97) bpm
   BP: 91/50(65) {66/44(33) - 117/76(83)} mmHg
   RR: 24 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
             Total In:
                                                                    781 mL
                                                                    107 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                    511 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    500 mL
   Urine:
                                                                  1,140 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -359 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GENERAL: elderly man in NAD
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   Hematoma on left anterior forehead with surrounding ecchymoses.
   NECK: Supple with JVP of anterior ear
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. [**3-7**] early to mid systolic murmur at LLSB. With RV heave
   and thrill over LLSB. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, ascites present, NTND. No HSM or tenderness. Abd aorta
   not enlarged by palpation. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   190 K/uL
   11.1 g/dL
   138 mg/dL
   1.9 mg/dL
   28
   3.8
   57 mg/dL
   95
   134mEq/L
   33.5 %
   5.7 K/uL
        [image002.jpg]
                             [**2194-4-2**]  07:52 PM
                             [**2194-4-3**]  05:25 AM
                             [**2194-4-4**]  03:42 AM
   WBC
   4.5
   5.8
   5.7
   Hct
   29.4
   32.5
   33.5
   Plt
   153
   203
   190
   Cr
   2.0
   1.9
   1.9
   Glucose
   113
   112
   138
   Other labs: PT / PTT / INR:36.2/38.3/3.9, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   81 yo man with history of biventricular failure, CAD, CABG in [**2165**],
   admitted for evalution of likely CHF exacerbation.
   .
   1.  CHF exacerbation:  Biventricular failure, NYHA Stage 4.
   - Switch to oral torsemide given aggressive diuresis.
   - Patient did not tolerate milrinone, switched back to dopamine for
   pressure control
   - Continue digoxin
   - Will restart carvedilol today
   - Will restart midodrine and aminophylline today and attempt to get
   patient off  dopamine treatment and risk of tachyarrhytmias.
   - Unclear if the patient has been taking losartan at home, however will
   not start [**Last Name (un) 284**] in the setting of hypotension.
   - Palliative care to see the patient today
   .
   2. Atrial Flutter:  The patient has been in atrial fibrillation
   regardless of attempts at chemical cardioversion with amiodarone in the
   past.  It appears on 12 lead from admission that the patient is in
   atrial flutter at a rate of 150bpm.  If the patient remains stable and
   improves clinically, may consider cardioversion at the end of this week
   or beginning of next.
   - Continue amiodarone
   - continue to hold coumadin for suprathrapeutic INR
   - Restart carvedilol as above
   .
   3. CAD s/p CABG:
   - Continue simvastatin, aggrenox
   - carvedilol as above
   .
   4. History of TIAs:
   - Continue aggrenox
   .
   5. BPH:
   - Continue flomax, with holding parameters
   - condom cath
   .
   6. Cataracts:
   - Continue opthalmic treatments including predfort, acular, zymar, and
   cosopt.
   .
   7. Gout:
   - Continue colchicine
   .
   8. Hypothyroidism:  The patient's daughter reports that they did not
   initiate levothyroxine therapy given unclear [**Name2 (NI) **] results.
   - Check TSH
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes [**Hospital1 **] given aggressive
   diuresis, fluid restriction of 1L
   Glycemic Control:
   Lines:
   20 Gauge - [**2194-4-2**] 07:30 PM
   Prophylaxis:
   DVT: therapeutic on coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: [**Known lastname **],[**First Name3 (LF) **] [**Telephone/Fax (1) 5154**], [**Telephone/Fax (1) 5155**]
   Code status: DNR/DNI
   Disposition: pending above
   ------ Protected Section ------
   I concur with Dr. [**Last Name (STitle) 3146**]
s notes.I personally reviewed data and
   examined Pt and discussed his management with him,family and residents.
   Spent 30 mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2194-4-5**] 12:02 ------

2194-04-05 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   +carvedilol/+toresemide/+midodrine/+amniophuline
   weaned dopa to 4 mcg/kg..MAP 60
   Allergies:
   Penicillins
   Unknown;
   Quinidine
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-4-5**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 75 (75 - 96) bpm
   BP: 96/62(59) {68/45(50) - 109/73(80)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
             Total In:
                                                                  1,091 mL
                                                                     35 mL
   PO:
                                                                    690 mL
             TF:
   IVF:
                                                                    401 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                      0 mL
   Urine:
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -629 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: elderly man in NAD
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   Hematoma on left anterior forehead with surrounding ecchymoses.
   NECK: Supple with JVP of anterior ear
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. [**3-7**] early to mid systolic murmur at LLSB. With RV heave
   and thrill over LLSB. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, ascites present, NTND. No HSM or tenderness. Abd aorta
   not enlarged by palpation. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   190 K/uL
   11.1 g/dL
   138 mg/dL
   1.9 mg/dL
   28 mEq/L
   3.8 mEq/L
   57 mg/dL
   95 mEq/L
   134 mEq/L
   33.5 %
   5.7 K/uL
        [image002.jpg]
                             [**2194-4-2**]  07:52 PM
                             [**2194-4-3**]  05:25 AM
                             [**2194-4-4**]  03:42 AM
   WBC
   4.5
   5.8
   5.7
   Hct
   29.4
   32.5
   33.5
   Plt
   153
   203
   190
   Cr
   2.0
   1.9
   1.9
   Glucose
   113
   112
   138
   Other labs: PT / PTT / INR:36.2/38.3/3.9, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   81 yo man with history of biventricular failure, CAD, CABG in [**2165**],
   admitted for evalution of likely CHF exacerbation.
   #  CHF exacerbation:  Biventricular failure, NYHA Stage 4.
   - Continue torsemide, net -600 ovenight.
   - added  midodrine and aminophylline, increase aminophylline today to
   [**Hospital1 **]. Continuing to wean dopamine.
   - Continue digoxin and carvedilol
   - would need to restart losartan when pressures tolerate
   - Palliative care on board
   # Atrial Flutter:  The patient has been in atrial fibrillation
   regardless of attempts at chemical cardioversion with amiodarone in the
   past.  It appears on 12 lead from admission that the patient is in
   atrial flutter at a rate of 150bpm.  If the patient remains stable and
   improves clinically, may consider cardioversion at the end of this week
   or beginning of next.
   - Continue amiodarone
   - continue to hold coumadin for suprathrapeutic INR, will restart when
   INR < 3
   - NPO Sunday night for possible cardioversion monday
   # CAD s/p CABG:
   - Continue simvastatin, aggrenox
   - carvedilol as above
   # History of TIAs:
   - Continue aggrenox
   # BPH:
   - Continue flomax, with holding parameters
   - condom cath
   # Cataracts:
   - Continue opthalmic treatments including predfort, acular, zymar, and
   cosopt.
   # Gout:
   - Continue colchicine
   # Hypothyroidism:  The patient's daughter reports that they did not
   initiate levothyroxine therapy given unclear [**Name2 (NI) **] results.
   - TSH elevated, however Free T4 normal, likely subclinical
   ICU Care
   Nutrition:
   Heart healthy fluid restriction
   Glycemic Control:
   Lines:
   20 Gauge - [**2194-4-2**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Home Monday or Tues
   ------ Protected Section ------
   Reviewed overnight data and examined.Pt..  Agree with management and
   fully discussed same with Pt and short term goals.
   Spent 30 mins
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2194-4-5**] 12:04 ------

2194-04-06 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2194-4-5**]:
   - Made NPO Sunday night for possible cardioversion Monday
   AM
   - Weaned off dopamine, with still relatively low SBPs in the 70s - 80s
   however at baseline for patient, mentating fine
   - INR still supratherapeutic, restart coumadin when < 3
   - Gave 5mg of metolazone prior to PM torsemide dosing to help diuresis
   as only -133 at 7pm, put out a little more overnight with metolazone,
   but only minimal
   Allergies:
   Penicillins
   Unknown;
   Quinidine
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-4-6**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 79 (75 - 87) bpm
   BP: 92/56(65) {69/40(47) - 97/57(67)} mmHg
   RR: 17 (9 - 38) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
                  Total In:
                                                                    587 mL
                                                                    240 mL
   PO:
                                                                    510 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     77 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    300 mL
   Urine:
                                                                    700 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -113 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   GENERAL: elderly man in NAD
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   Hematoma on left anterior forehead with surrounding ecchymoses.
   NECK: Supple with JVP of anterior ear
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. [**3-7**] early to mid systolic murmur at LLSB. With RV heave
   and thrill over LLSB. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, ascites present, NTND. No HSM or tenderness. Abd aorta
   not enlarged by palpation. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   180 K/uL
   10.3 g/dL
   92 mg/dL
   2.1 mg/dL
   30 mEq/L
   3.7 mEq/L
   64 mg/dL
   95 mEq/L
   134 mEq/L
   30.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2194-4-2**]  07:52 PM
                             [**2194-4-3**]  05:25 AM
                             [**2194-4-4**]  03:42 AM
                             [**2194-4-5**]  07:21 AM
                             [**2194-4-6**]  04:31 AM
   WBC
   4.5
   5.8
   5.7
   5.3
   5.4
   Hct
   29.4
   32.5
   33.5
   32.2
   30.6
   Plt
   153
   203
   190
   201
   180
   Cr
   2.0
   1.9
   1.9
   1.9
   2.1
   Glucose
   113
   112
   138
   126
   92
   Other labs: PT / PTT / INR:24.6/34.2/2.4, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   81 yo man with history of biventricular failure, CAD, CABG in [**2165**],
   admitted for evalution of likely CHF exacerbation.
   #  CHF exacerbation:  Biventricular failure, NYHA Stage 4.
   - Switched to oral torsemide given aggressive diuresis accomplished,
   however patient appears more volume overloaded today even after
   receiving metolazone prior to torsemide last night, got one time dose
   of lasix 40mg IV this AM and will restart lasix gtt today.
   - Weaned off dopamine  ->may need dobutamine instead with lasix gtt and
   also for better flow for kidneys
   - Continue digoxin
   - Restarted carvedilol, midodrine and aminophylline, aminophylline at
   increased dose of 100mg QD, can titrate up to [**Hospital1 **].
   - Unclear if the patient has been taking losartan at home, however will
   not start [**Last Name (un) 284**] in the setting of hypotension.
   - Palliative care consulted
   - [**Month (only) 11**] have DCCV in the am because NSR may help his heart function
   # Atrial Flutter:  The patient has been in atrial fibrillation
   regardless of attempts at chemical cardioversion with amiodarone in the
   past.  It appears on 12 lead from admission that the patient is in
   atrial flutter at a rate of 150bpm.  If the patient remains stable and
   improves clinically, may consider cardioversion at the end of this week
   or beginning of next.
   - Continue amiodarone
   - Restart coumadin at lower dose, 3mg today as INR < 3
   - Restarted carvedilol as above
   # CAD s/p CABG:
   - Continue simvastatin, aggrenox
   - carvedilol as above
   # History of TIAs:
   - Continue aggrenox
   # BPH:
   - Continue flomax, with holding parameters
   - condom cath
   # Cataracts:
   - Continue opthalmic treatments including predfort, acular, zymar, and
   cosopt.
   # Gout:
   - Continue colchicine
   # Hypothyroidism:  The patient's daughter reports that they did not
   initiate levothyroxine therapy given unclear [**Name2 (NI) **] results.
   - TSH showed elevation, however Free T4 also elevated, unclear etiology
   likely subclinical hypothyroidism
   ICU Care
   Nutrition:  heart healthy
   Glycemic Control:
   Lines:
   20 Gauge - [**2194-4-5**] 03:00 PM
   Prophylaxis:
   DVT:  therapeutic INR
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:  pending
   ------ Protected Section ------
   I reviewed data from past 24hrs.Examined Pt and agree with Dr.
   [**Last Name (STitle) 5204**]
s note.
   He has regressed off IV lasix drip and dopamine.Thus would reinstitute
   both +/- dobutamine.
   Spent 30 mins+ ocer case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2194-4-6**] 12:42 ------

2194-04-07 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - restarted lasix gtt (at 10) then upped to 15/hr
   - Got PICC but in Subclavian vein. After much discussion with IV team
   think the best thing is to leave where it is, consider IR placement if
   need more central access. Can draw labs from it and infuse dopa through
   it.
   - NPO for DCCV possibly [**2194-4-7**]
   - I/O's not accurate because incontinent but was roughly negative 1L
   - D/C
d midodrine
   Allergies:
   Penicillins
   Unknown;
   Quinidine
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-4-6**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-4-7**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 78 (77 - 88) bpm
   BP: 97/56(66) {69/38(46) - 107/65(80)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
             Total In:
                                                                    959 mL
                                                                     46 mL
   PO:
                                                                    810 mL
             TF:
   IVF:
                                                                    149 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    740 mL
   Urine:
                                                                  1,860 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -901 mL
                                                                   -694 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   GENERAL: elderly man in NAD
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   Hematoma on left anterior forehead with surrounding ecchymoses.
   NECK: Supple with JVP of anterior ear
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. [**3-7**] early to mid systolic murmur at LLSB. With RV heave
   and thrill over LLSB. No S3 or S4.
   LUNGS: CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, ascites present, NTND. No HSM or tenderness. Abd aorta
   not enlarged by palpation. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   181 K/uL
   10.2 g/dL
   90 mg/dL
   2.1 mg/dL
   29 mEq/L
   3.6 mEq/L
   68 mg/dL
   93 mEq/L
   135 mEq/L
   29.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2194-4-2**]  07:52 PM
                             [**2194-4-3**]  05:25 AM
                             [**2194-4-4**]  03:42 AM
                             [**2194-4-5**]  07:21 AM
                             [**2194-4-6**]  04:31 AM
                             [**2194-4-7**]  04:55 AM
   WBC
   4.5
   5.8
   5.7
   5.3
   5.4
   5.0
   Hct
   29.4
   32.5
   33.5
   32.2
   30.6
   29.2
   Plt
   153
   203
   190
   [**Telephone/Fax (3) 5216**]
   Cr
   2.0
   1.9
   1.9
   1.9
   2.1
   2.1
   Glucose
   113
   112
   138
   126
   92
   90
   Other labs: PT / PTT / INR:21.8/31.8/2.1, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   81 yo man with history of biventricular failure, CAD, CABG in [**2165**],
   admitted for evalution of likely CHF exacerbation.
   #  CHF exacerbation:  Biventricular failure, NYHA Stage 4.
   - Restarted lasix gtt as patient became fluid overloaded again when
   tried to change to PO diuretic regimen. Now negative about 1L over
   course of day yesterday with no pressor requirement
   - Continue digoxin
   - Restarted carvedilol and aminophylline, aminophylline at increased
   dose of 100mg QD, can titrate up to [**Hospital1 **].
   - D/C
d midodrine
   - Unclear if the patient has been taking losartan at home, however will
   not start [**Last Name (un) 284**] in the setting of hypotension.
   - will consider adding spironolactone if k tolerates
   - Palliative care consulted and family moving toward hospice, however,
   patient not quite ready yet
   - [**Month (only) 11**] have DCCV in the am because NSR may help his heart function
   - Will discuss plan today with his primary cardiologist
   # Atrial Flutter:  The patient has been in atrial fibrillation
   regardless of attempts at chemical cardioversion with amiodarone in the
   past.  It appears on 12 lead from admission that the patient is in
   atrial flutter at a rate of 150bpm.  If the patient remains stable and
   improves clinically, may consider cardioversion at the end of this week
   or beginning of next.
   - Continue amiodarone
   - Restart coumadin at lower dose, 3mg as INR < 3
   - Restarted carvedilol as above
   # CAD s/p CABG:
   - Continue simvastatin, aggrenox
   - carvedilol as above
   # History of TIAs:
   - Continue aggrenox
   # BPH:
   - Continue flomax, with holding parameters
   - condom cath
   # Cataracts:
   - Continue opthalmic treatments including predfort, acular, zymar, and
   cosopt.
   # Gout:
   - Continue colchicine
   # Hypothyroidism:  The patient's daughter reports that they did not
   initiate levothyroxine therapy given unclear [**Name2 (NI) **] results.
   - TSH showed elevation, however Free T4 also elevated, unclear etiology
   likely subclinical hypothyroidism
   ICU Care
   Nutrition: HH diet
   Glycemic Control: None
   Lines:
   20 Gauge - [**2194-4-5**] 03:00 PM
   PICC Line - [**2194-4-6**] 12:00 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication: With patient and family
   Code status: DNR (do not resuscitate)
   Disposition: in CCU
   ------ Protected Section ------
   I reviewed  events overnight. Question of some neuro recovery,more
   brainstem responses.
   There will be a family conference this am regarding long term care and
   Tracheostomy and Peg tube .
   Will follow Family,s wishes.
   Spent 45 mins over case and family discussions.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2194-4-7**] 09:48 ------

2194-04-08 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   lasix ggt until able to go home on [**6-8**]. home with hospice
   >2 lt neg
   no cardioversion per dr [**Last Name (STitle) **]
   Allergies:
   Penicillins
   Unknown;
   Quinidine
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-4-8**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 77 (75 - 89) bpm
   BP: 87/54(62) {78/42(51) - 105/62(72)} mmHg
   RR: 14 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 67.3 kg (admission): 67.7 kg
             Total In:
                                                                    660 mL
                                                                     89 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    360 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  3,235 mL
                                                                    180 mL
   Urine:
                                                                  3,235 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,575 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   GENERAL: elderly man in NAD
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   Hematoma on left anterior forehead with surrounding ecchymoses.
   NECK: Supple with JVP of anterior ear
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. [**3-7**] early to mid systolic murmur at LLSB. With RV heave
   and thrill over LLSB. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, ascites present, NTND. No HSM or tenderness. Abd aorta
   not enlarged by palpation. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   183 K/uL
   10.3 g/dL
   94 mg/dL
   2.2 mg/dL
   33 mEq/L
   3.1 mEq/L
   70 mg/dL
   90 mEq/L
   133 mEq/L
   29.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2194-4-2**]  07:52 PM
                             [**2194-4-3**]  05:25 AM
                             [**2194-4-4**]  03:42 AM
                             [**2194-4-5**]  07:21 AM
                             [**2194-4-6**]  04:31 AM
                             [**2194-4-7**]  04:55 AM
                             [**2194-4-8**]  05:18 AM
   WBC
   4.5
   5.8
   5.7
   5.3
   5.4
   5.0
   5.1
   Hct
   29.4
   32.5
   33.5
   32.2
   30.6
   29.2
   29.6
   Plt
   153
   203
   190
   [**Telephone/Fax (3) 5216**]
   183
   Cr
   2.0
   1.9
   1.9
   1.9
   2.1
   2.1
   2.2
   Glucose
   113
   112
   138
   126
   92
   90
   94
   Other labs: PT / PTT / INR:17.2/29.4/1.6, Ca++:8.9 mg/dL, Mg++:2.1
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   81 yo man with history of biventricular failure, CAD, CABG in [**2165**],
   admitted for evalution of likely CHF exacerbation.
   #  CHF exacerbation:  Biventricular failure, NYHA Stage 4.
   - Diuresing patient on lasix drip with good output, negative 2.5L
   yesterday, will switch back to oral torsemide prior to discharge,
   replace potassium PRN
   - Continue digoxin
   - Restarted carvedilol, midodrine and aminophylline, aminophylline at
   increased dose of 100mg [**Hospital1 **].
   - Unclear if the patient has been taking losartan at home, however will
   not start [**Last Name (un) 284**] in the setting of hypotension.
   - Palliative care consulted, will go home with hospice
   - No DCCV per Dr. [**Last Name (STitle) **]
   # Atrial Flutter:  The patient has been in atrial fibrillation
   regardless of attempts at chemical cardioversion with amiodarone in the
   past.  It appears on 12 lead from admission that the patient is in
   atrial flutter at a rate of 150bpm.
   - Continue amiodarone
   - Restarted coumadin at lower dose, 3mg, however now subtherapeutic.
   - Restarted carvedilol as above
   # CAD s/p CABG:
   - Continue simvastatin, aggrenox
   - carvedilol as above
   # History of TIAs:
   - Continue aggrenox
   # BPH:
   - Continue flomax, with holding parameters
   - condom cath
   # Cataracts:
   - Continue opthalmic treatments including predfort, acular, zymar, and
   cosopt.
   # Gout:
   - Continue colchicine
   # Hypothyroidism:  The patient's daughter reports that they did not
   initiate levothyroxine therapy given unclear [**Name2 (NI) **] results.
   - TSH showed elevation, however Free T4 also elevated, unclear etiology
   likely subclinical hypothyroidism
   ICU Care
   Nutrition:  Heart Healthy
   Glycemic Control:
   Lines:
   20 Gauge - [**2194-4-5**] 03:00 PM
   PICC Line - [**2194-4-6**] 12:00 PM
   Prophylaxis:
   DVT:  Coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:  Likely discharge today with hospice care